US06555692B1
Boc-Py-acid, 4-[(tert-Butoxycarbonyl)amino]-1-methylpyrrole-2-carboxylic acid (31 g, 129 mmol) was dissolved in 500 mL DMF, HOBt (17.4 g, 129 mmol) was added followed by DCC (34 g, 129 mmol). The reaction was stirred for 24 h and then filtered dropwise into a well stirred solution of 5 L of ice water. The precipitate was allowed to sit for 15 min at 0° C. and then collected by filtration. The wet cake was dissolved in 500 mL DCM, and the organic layer added slowly to a stirred solution of cold petroleum ether (4° C.). The mixture was allowed to stand at −20° C. for 4 h and then collected by vacuum filtration and dried in vacuo to provide (39 g, 85% yield) of 1,2,3-Benzotriazol-1-yl 4-[(tert-butoxycarbonyl)-amino]-1-methylpyrrole-2-carboxylate as a finely divided white powder. TLC (7:2 benzene/ethyl acetate v/v) Rf 0.6, 1H NMR (DMSO-d6) δ9.43 (s, 1H) , 8.12 (d, 1H, J=8.4 Hz), 7.80 (d, 1H, J=8.2Hz), 7.64 (t, 1H, J=7.0 Hz), 7.51 (m, 2H), 7.18 (s, 1H), 3.83 (s, 3H), 1.45 (s, 9H) , 13C NMR (DMSO-d6) δ156.5, 153.3, 143.2, 129.6, 129.2, 125.7, 125.2, 124.6, 120.3, 112.8, 110.3, 109.8, 79.5, 36.8, 28.6.; IR (KBr) 3246, 3095, 2979, 1764, 1711, 1588, 1389, 1365, 1274, 1227, 1160, 1101, 999, 824, 748.; FABMS mle 358.152 (M+H 358.151 calc. for C17H20N5O4)

reactant | 4-[(tert-Butoxycarbonyl)amino]-1-methylpyrrole-2-carboxylic acid | 129 mmol, 31 g | C(C)(C)(C)OC(=O)NC=1C=C(N(C1)C)C(=O)O | C11H16N2O4
reactant | HOBt | 129 mmol, 17.4 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 129 mmol, 34 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
product | 1,2,3-Benzotriazol-1-yl 4-[(tert-butoxycarbonyl)-amino]-1-methylpyrrole-2-carboxylate | 39 g, 85% yield | C(C)(C)(C)OC(=O)NC=1C=C(N(C1)C)C(=O)ON1N=NC2=C1C=CC=C2 | C17H19N5O4
